US08198325B2
To 1 ml of thionyl chloride (SOCl2) were added 3 drops of N,N-dimethylformamide (DMF) with stirring. Following the addition of 5-aminolevulinic acid hydrochloride (ALA.HCl, 200 mg, 1.19 mmol), the solution was stirred for 12 hours at room temperature. Concentration in a vacuum was conducted before the addition of 3-butenol. Then, the reaction mixture was stirred for 1.5 hours at room temperature, followed by purification by silica gel chromatography to afford 3-butenyl 5-aminolevulinate hydrochloride at a yield of 77%.

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminolevulinic acid hydrochloride | 1.19 mmol, 200 mg | Cl.NCC(CCC(=O)O)=O
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 3-butenyl 5-aminolevulinate hydrochloride | yield of 77% | Cl.NCC(CCC(=O)OCCC=C)=O | InChI=1S/C9H15NO3.ClH/c1-2-3-6-13-9(12)5-4-8(11)7-10;/h2H,1,3-7,10H2;1H
